US07585869B2
Cyclopentyl-{4-[2-methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone:
A solution of Cyclopentyl-{4-[4-(6-fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-methanone (50 mg, 0.11 mmol), pyrrolodine (15.8 mg, 0.222 mmol), and NEt3 (33.7 mg, 0.333 mmol) in DMSO (1 mL) was heated to 120° C. for 12 h. The reaction was concentrated and purified by preparative HPLC to give the title compound as a yellow solid (22 mg, 40%). MS: 501.4 (MH+); 1H NMR (DMSO-d6, 400 MHz): δ 8.84 (s, 1H), δ 8.30 (s, 1H), δ 7.50-7.54 (m, 2H), δ 7.24 (s, 1H), δ 6.08 (d, J=8.72 Hz, 1H), δ 6.55 (s, 1H), δ 4.52 (m, 1H), δ 3.70 (m, 3H), δ 3.48-3.65 (m, 4H) δ 2.86-2.94 (m, 1H), δ 2.22 (s, 3H), 1.53-2.00 (m, 17H)

reactant | Cyclopentyl-{4-[4-(6-fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-methanone | 0.11 mmol, 50 mg | C1(CCCC1)C(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)F)C | C25H28FN5O2
reactant | pyrrolodine | 0.222 mmol, 15.8 mg | N1CCCC1 | C4H9N
reactant | NEt3 | 0.333 mmol, 33.7 mg | CCN(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | Cyclopentyl-{4-[2-methyl-4-(6-pyrrolidin-1-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone | 22 mg, 40% | C1(CCCC1)C(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCCC2)C | C29H36N6O2
